US20010021718A1
(3R)-6-Cyclohexyl-3-(3-{[4-(4-pyridinyl)-1 -piperidinyl]carbonyl}-1,2,4-oxadiazol-5-yl)hexanoic acid
A solution of tert-butyl (3R)-6-cyclohexyl-3-(3-{[4-(4-pyridinyl)-1-piperidinyl]carbonyl}-1,2,4-oxadiazol-5-yl)hexanoate (Preparation 31) (376 mg, 0.74 mmol) in dichloromethane (15 ml) was cooled to 0° C. and treated with trifluoroacetic acid (5 ml). The resulting mixture was stirred for 3 hours being allowed to warm to room temperature over this time. The solvent was removed under reduced pressure and the residue azeotroped from toluene (×3) then dichloromethane. A saturated solution of sodium carbonate was added to the residue until a pH of 12 was achieved followed by dropwise addition of an aqueous citric acid solution solution (10% w/v) until the pH became 3.5. The solution was then diluted with water and extracted with ethyl acetate (×3). The combined organic layers were washed with brine, dried over anhydrous sodium sulphate, filtered and the solvent removed under reduced pressure to afford the title compound as a white solid (310 mg).

reactant | tert-butyl (3R)-6-cyclohexyl-3-(3-{[4-(4-pyridinyl)-1-piperidinyl]carbonyl}-1,2,4-oxadiazol-5-yl)hexanoate | 0.74 mmol, 376 mg | C1(CCCCC1)CCC[C@H](CC(=O)OC(C)(C)C)C1=NC(=NO1)C(=O)N1CCC(CC1)C1=CC=NC=C1 | C29H42N4O4
reactant | trifluoroacetic acid | 5 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | (3R)-6-Cyclohexyl-3-(3-{[4-(4-pyridinyl)-1 -piperidinyl]carbonyl}-1,2,4-oxadiazol-5-yl)hexanoic acid | 310 mg | C1(CCCCC1)CCC[C@H](CC(=O)O)C1=NC(=NO1)C(=O)N1CCC(CC1)C1=CC=NC=C1 | C25H34N4O4
